US07435815B2
4-Ethylaminomethyl-phenol
prepared by reaction of ethylamine with 4-hydroxy-benzaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | 4-hydroxy-benzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-Ethylaminomethyl-phenol | C(C)NCC1=CC=C(C=C1)O | C9H13NO
